US06831080B2
Preparation of 2,3-dihydroindole-1-carboxylic acid methyl ester
A mixture of indoline (11.97 g, 0.1 mol), methyl chloroformate (15.45 mL, 0.2 mol), triethylamine (40.4 g, 0.4 mol), and DMAP (0.5 g, 0.004 mol) in CH2Cl2 (100 mL) was stirred for 16 hours. The reaction mixture was quenched with water (10 mL). The reaction was extracted with CH2Cl2 (1×40 mL). The organic layer washed with water (1×50 mL), dried over anhydrous magnesium sulfate, filtered and the resultant filtrate was concentrated in vacuo to provide the title compound (17.6 g, 99%) which was used without further purification.

reactant | indoline | 0.1 mol, 11.97 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | methyl chloroformate | 0.2 mol, 15.45 mL | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 0.4 mol, 40.4 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.004 mol, 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dihydroindole-1-carboxylic acid methyl ester | 17.6 g, 99% | COC(=O)N1CCC2=CC=CC=C12 | C10H11NO2
